US08058447B2
Methyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 61.7 mg (0.53 mmol) of methyl 3-oxobutanoate, 43.6 mg (0.53 mmol) of 3-aminocrotononitrile and 31.9 mg (0.53 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 4 h. After cooling to room temperature, the crystallized product is filtered off and washed with 2-propanol and, diethyl ether. 97 mg (52% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | methyl 3-oxobutanoate | 0.53 mmol, 61.7 mg | O=C(CC(=O)OC)C | C5H8O3
reactant | 3-aminocrotononitrile | 0.53 mmol, 43.6 mg | N\C(=C/C#N)\C | C4H6N2
reactant | acetic acid | 0.53 mmol, 31.9 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Methyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC)C=1C=CC=C2C(C=C(OC12)C)=O | C20H18N2O4
